US04238396
To a solution of N-methylpyrrole (810 mg, 10 mmol) dissolved in benzene (10ml) was added dropwise a solution of chloral (1.47 g, 10 mmol) dissolved in benzene (5 ml) under ice-cooling for 40 minutes. After the mixture was stirred for 1 hour at room temperature, water was added thereto and the mixture was extracted with ether. The extract was dried over sodium sulfate and concentrated to afford 1-methyl-2-(2',2',2'-trichloro-1'-hydroxyethyl)pyrrole (2.04 g) as an oil.

reactant | N-methylpyrrole | 10 mmol, 810 mg | CN1C=CC=C1 | C5H7N
reactant | chloral | 10 mmol, 1.47 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | water | O | H2O
solvent | benzene | 10ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 1-methyl-2-(2',2',2'-trichloro-1'-hydroxyethyl)pyrrole | 2.04 g, Yield: 90% | CN1C(=CC=C1)C(C(Cl)(Cl)Cl)O | C7H8Cl3NO
